US06184225B2
A mixture of concentrated nitric acid (4 ml) and concentrated sulphuric acid (4 ml) was added slowly to a cooled mixture of 2,4-difluoro-1-methoxycarbonyloxybenzene (50 g, 0.027 mol) in concentrated sulphuric acid (4 ml) such that the reaction temperature was maintained below 30° C. The mixture was stirred for a further 3 hours, diluted with ice/water and the precipitated product collected by filtration washed with water and dried to give 2,4-difluoro-5-methoxycarbonyloxy-1-nitrobenzene (2.8 g, 45%).

reactant | nitric acid | 4 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,4-difluoro-1-methoxycarbonyloxybenzene | 0.027 mol, 50 g | FC1=C(C=CC(=C1)F)OC(=O)OC | C8H6F2O3
solvent | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-difluoro-5-methoxycarbonyloxy-1-nitrobenzene | 2.8 g, 45% | FC1=C(C=C(C(=C1)F)OC(=O)OC)[N+](=O)[O-] | C8H5F2NO5
